US08871753B2
Step F: 4-Chloro-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-19-one
A solution of 4-chloro-20-{[2-(trimethylsilyl)ethoxy]methyl}-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-19-one (25 mg, 49 μmol) in TFA (1.5 mL) was stirred at 20° C. for 30 min. The reaction mixture was concentrated and reconcentrated from dichloromethane to a residue. This residue was dissolved in THF (1.5 mL) and treated with 20 M of ammonia in water (1 mL, 20 mmol) dropwise and stirred at 20° C. for 1 h. The reaction mixture was poured into water (20 mL) and ethyl acetate (50 mL). The organic layer was separated and washed with brine (10 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product (19 mg, quantitative) as a white solid. LCMS for C19H15ClN5O2 (M+H)+: m/z=380.0.

reactant | 4-chloro-20-{[2-(trimethylsilyl)ethoxy]methyl}-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-19-one | 49 μmol, 25 mg | ClC=1C=2NC=3C=C4N(C(OC4=C(CCC4=CC=CC(NC(=NC1)N2)=C4)C3)=O)COCC[Si](C)(C)C | C25H28ClN5O3Si
reactant | ammonia | 20 M | N | H3N
reactant | water | 20 mmol, 1 mL | O | H2O
reactant | water | 20 mL | O | H2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Chloro-18-oxa-2,6,8,20,25-pentaazapentacyclo[14.6.1.1(3,7).1(9,13).0(17,21)]pentacosa-1(23),3(25),4,6,9(24),10,12,16,21-nonaen-19-one | 19 mg | ClC=1C=2NC=3C=C4NC(OC4=C(CCC4=CC=CC(NC(=NC1)N2)=C4)C3)=O | C19H14ClN5O2
